2106-03-29 10:13:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted. Came off Bipap did well intially on 5L with sleep needed
   additional 70% FT, now back on 5L alone and sat of 93%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-3-28**] 06:00 PM
   Ceftriaxone - [**2106-3-28**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-3-29**] 06:04 AM
   Omeprazole (Prilosec) - [**2106-3-29**] 08:07 AM
   Other medications:
   pencillamine, omeprazole, HCTZ, fluxetine, prednisone, ipratropium
   levofloxacin 750 iv q24, heparin 5000u s/c tid, ceftraixone, valium 10
   po at bedtime, albuterol prn, tranzodone prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-29**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 73 (68 - 102) bpm
   BP: 108/76(83) {88/49(60) - 123/89(97)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    440 mL
                                                                    439 mL
   PO:
                                                                    240 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    200 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    400 mL
   Urine:
                                                                    350 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.35/59/63/37/4
   PaO2 / FiO2: 79
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Wheezes :
   diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.9 g/dL
   175 K/uL
   128 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.5 mEq/L
   19 mg/dL
   98 mEq/L
   140 mEq/L
   41.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2106-3-28**]  06:45 PM
                             [**2106-3-29**]  01:50 AM
                             [**2106-3-29**]  05:39 AM
   WBC
   5.4
   Hct
   41.9
   Plt
   175
   Cr
   0.7
   TropT
   0.02
   0.02
   TCO2
   34
   Glucose
   128
   Other labs: CK / CKMB / Troponin-T:153/12/0.02, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.0 mg/dL
   Imaging: CXr clear
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: will continue levofloxacin, and prendisone,
   nebs, and prn BIpap for SOB. will d/c ceftriaxone as suspicion for
   bacterial pneumonia with clear CXR is very low. No evidence for volume
   overload on exam.
   smoking: will consel about smoking sessation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-3-28**] 03:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined this pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
   note, including assessment and plan. 64 yo male with COPD, CAD admitted
   with acute respiratory distress and acute COPD exacerbation. On exam,
   he continues to exhibit diffuse inspiratory and expiratory wheezing;
   oxygen requirement decreased to 3 liters n.c. For his acute COPD
   exacerbation, this appears to be improving and will continue steroids
   and nebulizers. Given documentation of viral process (RSV) as trigger,
   will stop antibiotics.  Will continue to monitor respiratory status
   this afternoon, but he has not required NIPPV since coming to the ICU,
   and if he is able to tolerate further spacing out of scheduled nebs he
   may be ready to transfer to the medical floor soon.
   Critical care time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2106-3-29**] 12:29 PM ------

2106-03-30 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo M with COPD presents with respiratory failure in setting of COPD
   exacerbation whiel RSV positive
   24 Hour Events:
   over past 24 hours with decreased O2 requirement, 3-4L NC requirement
   RSV positive and abx discontinued
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-3-28**] 06:00 PM
   Ceftriaxone - [**2106-3-28**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-3-29**] 01:50 PM
   Other medications:
   penicillamine 500 po 6x/day
   omeprazole 20 [**Hospital1 **]
   hctz
   prozac 60 qday
   prednisone 40 qday
   atrovent/albuterol nebs q4
   heparin 5000 tid
   nicotine patch
   valium 10 po qhs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-3-30**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 74 (65 - 95) bpm
   BP: 112/76(85) {78/40(50) - 133/84(99)} mmHg
   RR: 19 (17 - 25) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,080 mL
                                                                    334 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                  1,290 mL
   Urine:
                                                                  1,375 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -295 mL
                                                                   -956 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///39/
   Physical Examination
   General Appearance: Well nourished, Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : diffuse insp/exp)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Normal
   Labs / Radiology
   13.7 g/dL
   157 K/uL
   86 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.9 mEq/L
   21 mg/dL
   98 mEq/L
   141 mEq/L
   41.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2106-3-28**]  06:45 PM
                             [**2106-3-29**]  01:50 AM
                             [**2106-3-29**]  05:39 AM
                             [**2106-3-30**]  06:00 AM
   WBC
   5.4
   8.1
   Hct
   41.9
   41.9
   Plt
   175
   157
   Cr
   0.7
   0.6
   TropT
   0.02
   0.02
   TCO2
   34
   Glucose
   128
   86
   Other labs: CK / CKMB / Troponin-T:153/12/0.02, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   64 yo M COPD flare
   1. COPD:
    - cont standing nebs
    - pred 40 mg x 5 days
    - advair
    - smoking cessation counseling
    - abx d/c'd
   2. RSV: supportive care
   3. HTN: hctz
   4. Anxiety: valium
   5. Cysteinuria: cont penicillamine
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2106-3-28**] 03:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) 2599**]
   note, including assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2106-3-30**] 17:43 ------